US07745475B2
2-Chloro-5-fluoro-4-(3-[(1S)-2-hydroxy-1-methylethoxy]-5-{[(1-methyl-1H-pyrazol-3-yl)amino]carbonyl}phenoxy)-N,N-dimethylbenzamide
A suspension of 3-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethyloxy)-5-hydroxy-N-(1-methyl-1H-pyrazol-3-yl)benzamide (200 mg, 0.477 mmol), potassium carbonate (136 mg, 0.95 mmol) and 2-chloro-4,5-difluoro-N,N-dimethylbenzamide (106 mg, 0.45 mmol) in acetonitrile (3.5 mL) was heated in a microwave reactor at 160° C. for 2 hours. The reaction mixture was quenched with water and extracted with DCM (2×6 mL). The organic layer was dried (MgSO4), filtered and concentrated in vacuo. The residue was then chromatographed by preparatory reverse phase HPLC using a gradient of 5-95% acetonitrile in water (containing 0.2% TFA) on a Phenomenex Luna 10u C18 (2) 100A (150×21.2 mm) column to give the title compound (37 mg).

reactant | 3-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethyloxy)-5-hydroxy-N-(1-methyl-1H-pyrazol-3-yl)benzamide | 0.477 mmol, 200 mg | [Si](C)(C)(C(C)(C)C)OC[C@@H](OC=1C=C(C(=O)NC2=NN(C=C2)C)C=C(C1)O)C | C20H31N3O4Si
reactant | potassium carbonate | 0.95 mmol, 136 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro-4,5-difluoro-N,N-dimethylbenzamide | 0.45 mmol, 106 mg | ClC1=C(C(=O)N(C)C)C=C(C(=C1)F)F | C9H8ClF2NO
solvent | acetonitrile | 3.5 mL | C(C)#N | C2H3N
product | 2-Chloro-5-fluoro-4-(3-[(1S)-2-hydroxy-1-methylethoxy]-5-{[(1-methyl-1H-pyrazol-3-yl)amino]carbonyl}phenoxy)-N,N-dimethylbenzamide | 37 mg | ClC1=C(C(=O)N(C)C)C=C(C(=C1)OC1=CC(=CC(=C1)C(=O)NC1=NN(C=C1)C)O[C@H](CO)C)F | C23H24ClFN4O5
